US07238716B2
To a mixture of 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (3.23 g), tetrahydrofuran (15 ml) and methanol (15 ml) was added sodium borohydride (0.378 g) at room temperature and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals of 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol. Recrystallization from tetrahydrofuran-hexane gave pale-yellow plate crystals (3.22 g, 99%). melting point: 144-145° C.

reactant | 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 3.23 g | COC1=C(C=C(C=O)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO4
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | methanol | 15 ml | CO | CH4O
reactant | sodium borohydride | 0.378 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol | COC1=C(C=C(CO)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H19NO4
